US04406904
40 ml of borontrifluoride etherate are added drop-wise over 20 minutes and with stirring to a solution of 52.2 g (0.2 Mol) 2-(4-methoxybenzyl)-1,3,3-trimethyl-4-piperidone in 500 ml methanol, the temperature being maintained below 35° C. After stirring for 16 hours at room-temperature 40 g pulverized sodium hydroxide are added. After stirring for a further 30 minutes the obtained sodium salts are filtered off and washed with methanol. The filtrate is evaporated under reduced pressure and after addition of 500 ml water, extracted 3 times with 150 ml of chloroform. The chloroform phases are dried over sodium sulphate and evaporated under reduced pressure. After crystallization from 200 ml petrol ether (b.p.: 60°-80° C.) and further recrystallization there are obtained 25.4 g 4,4-dimethoxy-2-(4-methoxybenzyl)-1,3,3-trimethylpiperidine, m.p.: 91°-92.5° C.

reactant | borontrifluoride etherate | 40 ml | B(F)(F)F.CCOCC
reactant | 2-(4-methoxybenzyl)-1,3,3-trimethyl-4-piperidone | 0.2 Mol, 52.2 g | COC1=CC=C(CC2N(CCC(C2(C)C)=O)C)C=C1 | C16H23NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 500 ml | CO | CH4O
product | 4,4-dimethoxy-2-(4-methoxybenzyl)-1,3,3-trimethylpiperidine | 25.4 g | COC1(C(C(N(CC1)C)CC1=CC=C(C=C1)OC)(C)C)OC | C18H29NO3
